US05405851
A suspension of diethyl (S)-2-(4-nitrophthalimido)glutarate (35.6 g, 94.1 mmol) and 10% palladium on carbon (0.5 g) (Aldrich) in ethanol (200 ml) was shaken under a hydrogen atmosphere (40-50 psi) for 26 hours. The solution was filtered through celite and concentrated in vacuo. The residue was purified by chromatography on silica gel (250 g) eluting with diethyl ether:hexane (4:1) to give diethyl (S)-2-(4-aminophthalimido)glutarate as a viscous yellow oil (29.1 g). 1H NMR (DMSO-d6, 300 MHz) δ: 1.10 (t, J=7 Hz, 3H, ester CH3), 1.12 (t, J=7 Hz, 3H, ester CH3), 2.17-2.39 (m, 4H, glu CH2CH2), 3.87-3.98 (m, 2H, ester CH2), 4.05-4.18 (m, 2H, ester CH2), 4.75-4.82 (m, 1H, glu CH), 6.57 (br s, 2H, NH 2), 6.82 (dd, J=8,2 Hz, 1H, Ar), 6.93 (d, J=2 Hz, 1H, Ar), 7.51 (d, J=8 Hz, 1H, Ar). Mass spectrum (CI-CH4) 349 (M+1, 40.8%), 303 (60.1%), 275 (100%). Anal. Calculated for C17H20N2O6 : C, 58.62; H, 5.79; N, 8.04. Found: C, 58.62; H, 5.80; N, 8.00.

reactant | diethyl (S)-2-(4-nitrophthalimido)glutarate | 94.1 mmol, 35.6 g | [N+](=O)([O-])C=1C=C2C(C(=O)N(C2=O)[C@H](C(=O)OCC)CCC(=O)OCC)=CC1 | C17H18N2O8
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | diethyl (S)-2-(4-aminophthalimido)glutarate | 29.1 g | NC=1C=C2C(C(=O)N(C2=O)[C@H](C(=O)OCC)CCC(=O)OCC)=CC1 | C17H20N2O6
